US04421758
To a solution of 1.34 g of 2-tosyloxymethyl-3,4-dihydro-2H-pyran in 25 ml of diethyl ether were added 1.06 g of 2,4-dichlorobenzyl alcohol, followed by a catalytic amount (2-3 drops) of phosphorus oxytrichloride. The mixture was then stirred at room temperature for 4 days, after which 3 drops of triethylamine were added to the mixture, which was then concentrated by evaporation under reduced pressure. The residue was purified by column chromatography through silica gel as in Example 1(a), to give 1.82 g of trans-6-(2,4-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran (having the lesser polarity), 144 mg of cis-6-(2,4-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran (having the greater polarity) and 200 mg of a cis/trans mixture.

reactant | 2-tosyloxymethyl-3,4-dihydro-2H-pyran | 1.34 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1OC=CCC1 | C13H16O4S
reactant | 2,4-dichlorobenzyl alcohol | 1.06 g | ClC1=C(CO)C=CC(=C1)Cl | C7H6Cl2O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
catalyst | phosphorus oxytrichloride | 2-3 drops | O=P(Cl)(Cl)Cl | Cl3OP
catalyst | triethylamine | 3 drops | C(C)N(CC)CC | C6H15N
product | trans-6-(2,4-dichlorobenzyloxy)-2-tosyloxymethyltetrahydropyran | 1.82 g | ClC1=C(CO[C@H]2CCC[C@@H](O2)COS(=O)(=O)C2=CC=C(C)C=C2)C=CC(=C1)Cl | C20H22Cl2O5S
